**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 5
* SIMULATION TYPE: ac_point_dc_sweep
**********************************************************

* Define the temperature
.TEMP 25.0

* Include the dut file
.INCLUDE /home/gazi/Desktop/Work/aivalanche/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.68f4a41f-99df-4992-bf13-ceb070c681c4/common/model_files/dut_1.cir

** Start testbenches

********************* dut testbench 21_0 *********************
v_gs_ac_21_0 g_21_0 g_ac_21_0 DC 0 AC 1
e_gs_21_0 g_ac_21_0 0 v_sweep 0 1
v_ds_21_0 d_21_0 0 0.0
v_s_21_0 s_21_0 0 0
v_bs_21_0 b_21_0 0 0.0
x_21_0 d_21_0 g_21_0 s_21_0 b_21_0 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

********************* dut testbench 21_2 *********************
v_gs_ac_21_2 g_21_2 g_ac_21_2 DC 0 AC 1
e_gs_21_2 g_ac_21_2 0 v_sweep 0 1
v_ds_21_2 d_21_2 0 0.0
v_s_21_2 s_21_2 0 0
v_bs_21_2 b_21_2 0 -1.0
x_21_2 d_21_2 g_21_2 s_21_2 b_21_2 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0

********** Start of control section **********
.control

** Model parameters start
alterparam dut a0 = 2.1343264445308434
alterparam dut a1 = 0.009607359083753698
alterparam dut a2 = 0.7749497152806357
alterparam dut acde = 0.35949474885452226
alterparam dut ags = 0.7840842291568062
alterparam dut bin_lketa = 0.7799472126823063
alterparam dut bin_pketa = 0.7602049714587761
alterparam dut bin_ppclm = 0.42468695364256015
alterparam dut bin_prdsw = 0.3084753682735966
alterparam dut bin_pvsat = 0.7433198923169279
alterparam dut bin_wk3 = 0.2639144550469937
alterparam dut bin_wk3b = 0.3307407940610895
alterparam dut bin_wketa = 0.9320473410490686
alterparam dut cf = 1.295937887932799e-10
alterparam dut cgdl = 9.131498056355741e-10
alterparam dut cgdo = 1.6834306911979203e-10
alterparam dut ckappas = 2.903797680357817
alterparam dut clc = 1.2590536680078916e-08
alterparam dut cle = 0.4185741025870471
alterparam dut dlc = 5.443115692616539e-08
alterparam dut drout = 0.8439016319061902
alterparam dut dsub = 0.47476201520137307
alterparam dut dvt0 = 8.577650070197272
alterparam dut dvt0w = 5.619878500455901
alterparam dut dvt1 = 0.38815154534730956
alterparam dut dvt1w = 760151.676765351
alterparam dut dvt2 = 1*-0.0004014092158993732
alterparam dut dvt2w = 1*-0.005869436744006182
alterparam dut dwg = 9.348613430343631e-08
alterparam dut eta0 = 0.8021014727129803
alterparam dut etab = 1*-0.29421055254266726
alterparam dut k1 = 0.20082622618967222
alterparam dut k2 = 1*-0.02530584773664105
alterparam dut k3 = 54.77406256636604
alterparam dut k3b = 1*-3.2701262390001844
alterparam dut keta = 1*-0.03181792729788559
alterparam dut lint = 6.5653650041582106e-09
alterparam dut ll = 2.5486627696101218e-14
alterparam dut lwl = 1*-8.356952418600315e-20
alterparam dut moin = 19.270845920343813
alterparam dut ndep = 4.361855703750416e+16
alterparam dut nfactor = 1.5478382818625174
alterparam dut ngate = 1.0905607750356648e+22
alterparam dut noff = 1.7000305345978262
alterparam dut pclm = 0.043130519744858646
alterparam dut pdiblc1 = 3.075538314907368e-05
alterparam dut pdiblc2 = 2.0467205787180135e-05
alterparam dut pdiblcb = 0.04852135008762137
alterparam dut pvag = 2.187852829657801
alterparam dut rdsw = 1315.0723700620872
alterparam dut toxp = 6.4637018728498e-09
alterparam dut u0 = 345.6590806847504
alterparam dut ua = 2.3823471883719757e-10
alterparam dut ub = 2.896100867619553e-21
alterparam dut uc = 1*-4.894054551486729e-11
alterparam dut voff = 1*-0.10831062088564934
alterparam dut voffcv = 1*-0.19749780280951357
alterparam dut voffl = 1*-5.223716791186836e-08
alterparam dut vsat = 183443.59453523936
alterparam dut vth0 = 0.31826355311785104
alterparam dut w0 = 1.2434753108488855e-10
alterparam dut wint = 1*-3.456227681715415e-08
alterparam dut ww = 1*-3.966240408989107e-14
alterparam dut wwl = 1*-7.972374893074396e-20
alterparam dut xpart = 0.3873061006630216
reset
** Model parameters end

** Declare the vectors to save.
save i(v_s_21_2) i(v_s_21_0)

** Write the header of the results file.
echo "vgs,cgs_21_0,cgs_21_2" > /home/gazi/Desktop/Work/aivalanche/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.68f4a41f-99df-4992-bf13-ceb070c681c4/models/bsim_model.15f3dbb9-e10d-4889-bdcf-541ff253c82c/calibration_26_02_2025-22_04_55/simulation_files/ac_point_dc_sweep_5.csv

** Start the simulation loop.
compose values_list start=-2.0 stop=2.0 step=0.05
foreach val $&values_list
    alter v_sweep $val
    ac lin 1 10000.0 10000.0

    let cgs_21_0 = abs(imag(i(v_s_21_0)))/2*pi*10000.0
    let cgs_21_2 = abs(imag(i(v_s_21_2)))/2*pi*10000.0

    echo "$val,$&cgs_21_0,$&cgs_21_2" >> /home/gazi/Desktop/Work/aivalanche/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.68f4a41f-99df-4992-bf13-ceb070c681c4/models/bsim_model.15f3dbb9-e10d-4889-bdcf-541ff253c82c/calibration_26_02_2025-22_04_55/simulation_files/ac_point_dc_sweep_5.csv
end

.endc
********** End of control section **********

.end